US08258144B2
4-(Benzylamino)-2-(1-methyl-2-oxo-1,2,3,4-tetrahydroquinolin-6-ylamino)-7H-pyrrolo[2,3-d]pyrimidine-5-carbonitrile
A solution of 4-(benzylamino)-2-chloro-7-tosyl-7H-pyrrolo[2,3-d]pyrimidine-5-carbonitrile (54 mg, 0.12 mmol), 6-amino-1-methyl-3,4-dihydroquinolin-2(1H)-one (43 mg, 0.24 mmol) and trimethylsilyl chloride (0.200 mL, 1.58 mmol) in nBuOH (2.5 mL) and dioxane (1.5 mL) was stirred at 116° C. for 20 h. It was concentrated in vacuo. The residue was purified by HPLC to give the titled compound. MS 424.3 (M+H); UV 207.7, 273.1 nm.

reactant | 4-(benzylamino)-2-chloro-7-tosyl-7H-pyrrolo[2,3-d]pyrimidine-5-carbonitrile | 0.12 mmol, 54 mg | C(C1=CC=CC=C1)NC=1C2=C(N=C(N1)Cl)N(C=C2C#N)S(=O)(=O)C2=CC=C(C)C=C2 | C21H16ClN5O2S
reactant | 6-amino-1-methyl-3,4-dihydroquinolin-2(1H)-one | 0.24 mmol, 43 mg | NC=1C=C2CCC(N(C2=CC1)C)=O | C10H12N2O
reactant | trimethylsilyl chloride | 1.58 mmol, 0.200 mL | C[Si](C)(C)Cl | C3H9ClSi
solvent | nBuOH | 2.5 mL | C(CCC)O | C4H10O
solvent | dioxane | 1.5 mL | O1CCOCC1 | C4H8O2
product | 4-(Benzylamino)-2-(1-methyl-2-oxo-1,2,3,4-tetrahydroquinolin-6-ylamino)-7H-pyrrolo[2,3-d]pyrimidine-5-carbonitrile | C(C1=CC=CC=C1)NC=1C2=C(N=C(N1)NC=1C=C3CCC(N(C3=CC1)C)=O)NC=C2C#N | C24H21N7O
